US05198269
For the multicomponent PZT and PLZT sol-gel thin films to be described in Examples 8 through 14, stock alkoxide solutions were prepared. A lead methoxyethoxide stock solution was prepared by dissolving 37.9 grams of lead acetate hydrate in 300 ml of methoxyethanol at 80° C. The solution was distilled at 110° C. to remove the water and acetate. This lead methoxyethoxide stock solution was analyzed by ICP (inductively coupled plasma) to have a Pb concentration of 87.8 grams/liter (0.422 M).

reactant | lead acetate hydrate | 37.9 grams | O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | methoxyethanol | 300 ml | COC(C)O | C3H8O2
product | lead methoxyethoxide | COC([O-])C.[Pb+2].COC([O-])C | InChI=1S/2C3H7O2.Pb/c2*1-3(4)5-2;/h2*3H,1-2H3;/q2*-1;+2
